US07399759B2
N,N-Dimethyl-N′-[[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]carbonyl]-N′-propylurea
A mixture of methyl thiosalicylate (1.6 g, 9.6 mmol), N-[(6-cyano-2-pyridyl)carbonyl]-N′,N′-dimethyl-N-propylurea (1.2 g, 4.7 mmol), triethylamine (2.0 ml, 14 mmol) and toluene (4 ml) was refluxed for 9 hrs as described in Example 1. After cooling, the precipitated crystals were collected by filtration and recrystallized from hexane-tetrahydrofuran to give the titled compound (1.36 g, 72%) as crystals.

reactant | methyl thiosalicylate | 9.6 mmol, 1.6 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | N-[(6-cyano-2-pyridyl)carbonyl]-N′,N′-dimethyl-N-propylurea | 4.7 mmol, 1.2 g | C(#N)C1=CC=CC(=N1)C(=O)N(C(=O)N(C)C)CCC | C13H16N4O2
reactant | triethylamine | 14 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-Dimethyl-N′-[[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]carbonyl]-N′-propylurea | 1.36 g, 72% | CN(C(=O)N(CCC)C(=O)C1=NC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2)C | C20H20N4O3S
